US05719141
c) 3(R,S)-Amino-1,2,3,4-tetrahydroquinoline
The solution of 35 g of 3-aminoquinoline in 330 ml of ethanol is hydrogenated in the presence of a total of 27 g of Raney nickel at 55° C. under a pressure of 90 bar for 44 h. After customary working up, the crude product is purified over 900 g of silica gel (mobile phase S): Rf (S)=0.40; MS: M+ =148.

reactant | 3-aminoquinoline | 35 g | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
solvent | ethanol | 330 ml | C(C)O | C2H6O
catalyst | Raney nickel | 27 g | [Ni] | Ni
product | 3(R,S)-Amino-1,2,3,4-tetrahydroquinoline | NC1CNC2=CC=CC=C2C1 | C9H12N2
